US07365222B2
2×40 g active manganese(IV)oxide were added one after the other over 2 hours to a well-stirred solution of 13.6 g (80 mmol) 2-(bicyclo[3.1.0]hex-1-yl)-2-hydroxyacetic acid methyl ester in 500 ml anhydrous ether, and the mixture was stirred at room temperature for a further 4 hours until all the starting material was used up (DC control). The reaction mixture was then filtered over diatomaceous earth (Celite®). After the solvent was evaporated off in vacuum at room temperature, 10.8 g (80%) of 2-(bicyclo[3.1.0]hex-1-yl)-2-oxoacetic acid methyl ester was obtained as clear light-yellow liquid (purity >96% according to GC), which does not have to be purified further.

reactant | 2-(bicyclo[3.1.0]hex-1-yl)-2-hydroxyacetic acid methyl ester | 80 mmol, 13.6 g | COC(C(O)C12CCCC2C1)=O | C9H14O3
solvent | ether | 500 ml | CCOCC | C4H10O
catalyst | manganese(IV)oxide | 40 g | [O-2].[Mn+4].[O-2]
product | 2-(bicyclo[3.1.0]hex-1-yl)-2-oxoacetic acid methyl ester | 10.8 g, 80% | COC(C(=O)C12CCCC2C1)=O | C9H12O3
